US07977331B1
To a solution of ethyl 12-cyclohexyl-5-[2-oxo-2-(morpholin-4-yl)ethyl]-6,7-dihydro-5H-5,7a,8-triazadibenzo[a,e]azulene-9-carboxylate (62 mg, 0.12 mmol) in tetrahydrofuran (3 ml) and methanol (3 ml) was added 4N aqueous sodium hydroxide solution (1.5 ml) under ice-cooling, and the mixture was stirred at room temperature for 2 hr. 2N Hydrochloric acid (3 ml) was added to the reaction mixture to adjust to pH 7, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine and dried over anhydrous sodium sulfate. After filtration, the solvent was evaporated under reduced pressure and the obtained residue was purified by silica gel chromatography (chloroform:methanol=8:1) and the solvent was evaporated under reduced pressure. To a solution of the residue in ethyl acetate (1 ml) was added 4N HCl-ethyl acetate solution (1 ml) and the solvent was evaporated under reduced pressure. Hexane was added to the residue, and the precipitated solid was collected by filtration, washed with hexane and dried in vacuo to give 12-cyclohexyl-5-[2-oxo-2-(morpholin-4-yl)ethyl]-6,7-dihydro-5H-5,7a,8-triazadibenzo[a,e]azulene-9-carboxylic acid dihydrochloride (20 mg, yield 30%).

reactant | ethyl 12-cyclohexyl-5-[2-oxo-2-(morpholin-4-yl)ethyl]-6,7-dihydro-5H-5,7a,8-triazadibenzo[a,e]azulene-9-carboxylate | 0.12 mmol, 62 mg | C1(CCCCC1)C=1C2=C(N3CCN(C4=C(C13)C=CC=C4)CC(N4CCOCC4)=O)N=C(C=C2)C(=O)OCC | C30H36N4O4
reactant | sodium hydroxide | 4N, 1.5 ml | [OH-].[Na+]
reactant | Hydrochloric acid | 2N, 3 ml | Cl | ClH
solvent | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
solvent | methanol | 3 ml | CO | CH4O
product | 12-cyclohexyl-5-[2-oxo-2-(morpholin-4-yl)ethyl]-6,7-dihydro-5H-5,7a,8-triazadibenzo[a,e]azulene-9-carboxylic acid dihydrochloride | 20 mg, yield 30% | Cl.Cl.C1(CCCCC1)C=1C2=C(N3CCN(C4=C(C13)C=CC=C4)CC(N4CCOCC4)=O)N=C(C=C2)C(=O)O | InChI=1S/C28H32N4O4.2ClH/c33-24(30-14-16-36-17-15-30)18-31-12-13-32-26(20-8-4-5-9-23(20)31)25(19-6-2-1-3-7-19)21-10-11-22(28(34)35)29-27(21)32;;/h4-5,8-11,19H,1-3,6-7,12-18H2,(H,34,35);2*1H
